Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8],3.9246697873300014
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10].[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-3.92680744809
[C:1]#[C:2][C:3][O:9][H:10].[O:4]([H:5])[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.00264802571
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11],1.94162033552
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])=[O:6],0.5168744634610001
[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.3833157660000004
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-4.53388039006
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4][H:5],3.12617522547
[C:1][C:2]([H:3])([H:4])[H:5]>>[C:1].[C:2]([H:3])([H:4])[H:5],3.9840818584699993
[H:15].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.97853796842
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-4.98511037895
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.58646192801
[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([O:9][H:10])[C:11]([H:12])([H:13])[H:14],3.37150842591
[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-3.78674996078
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],4.84330263298
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[O:9],1.73196206883
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.44614725954
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.38306042974
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.18700617206
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:12][H:13],5.38718557839
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],5.23387873797
[C:1]#[C:2][C:3](=[O:4])[C:9]([H:10])([H:11])[H:12].[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.8695254191000004
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-8.11680566
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.94173628555
[H:17].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.58235358416
[H:10].[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.5595623098
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],4.5752168745
